US04118511
2-(acetylamino)-4-(1-naphthyloxy)-1-butanol acetate, described in Example 5, with methyl iodide, followed by reduction, gives 1-methoxy-N-ethyl-N-methyl-4-(1-naphthyloxy)-2-butanamine, and

reactant | 2-(acetylamino)-4-(1-naphthyloxy)-1-butanol acetate | C(C)(=O)OCC(CCOC1=CC=CC2=CC=CC=C12)NC(C)=O | C18H21NO4
reactant | methyl iodide | CI | CH3I
product | 1-methoxy-N-ethyl-N-methyl-4-(1-naphthyloxy)-2-butanamine | COCC(CCOC1=CC=CC2=CC=CC=C12)N(C)CC | C18H25NO2
